US06388088B1
A solution of nickel (II) chloride hexahydrate (12.2 mg, 0.05 mmol) and (E)-3-cyclopentyl-2-[4-methanesulfonyl-3-(5-methyl-tetrazol-1-yl)-phenyl]-acrylic acid methyl ester (100 mg, 0.26 mmol) in methanol (5 mL) was cooled to 0° C. and then treated with sodium borohydride (29 mg, 0.77 mmol). After the addition, the black reaction mixture was stirred for 15 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 15 h. The reaction mixture was concentrated in vacuo, and the residue was diluted with a 3N aqueous hydrochloric acid solution (10 mL) and ethyl acetate (25 mL). The two layers were separated. The organic layer was washed with a saturated aqueous sodium chloride solution (1×25 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford racemic 3-cyclopentyl-2-[4-methanesulfonyl-3-(5-methyl-tetrazol-1-yl)-phenyl]-propionic acid methyl ester (105 mg, 99%) as a viscous oil: EI-HRMS m/e calcd for C18H24N4O4S (M+) 392.1518, found 392.1526.

reactant | (E)-3-cyclopentyl-2-[4-methanesulfonyl-3-(5-methyl-tetrazol-1-yl)-phenyl]-acrylic acid methyl ester | 0.26 mmol, 100 mg | COC(\C(=C\C1CCCC1)\C1=CC(=C(C=C1)S(=O)(=O)C)N1N=NN=C1C)=O | C18H22N4O4S
reactant | sodium borohydride | 0.77 mmol, 29 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | nickel (II) chloride hexahydrate | 0.05 mmol, 12.2 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | racemic 3-cyclopentyl-2-[4-methanesulfonyl-3-(5-methyl-tetrazol-1-yl)-phenyl]-propionic acid methyl ester | 105 mg, 99% | COC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)N1N=NN=C1C)=O | C18H24N4O4S
